US09403831B2
In a pressure tube reactor, 4-bromo-2-fluorobenzaldehyde (500 mg, 2.46 mmol) and 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (938 mg, 3.69 mmol) were added, and then Pd(dppf)2Cl2 (120 mg, 0.15 mmol) was added. dppf (78 mg, 0.15 mmol) and KOAC (965 mg, 9.84 mmol) were further added, and 1,4-dioxane (8 mL) was added, followed by stirring at 85° C. under nitrogen gas for 13 hours. When the reaction was completed, the reaction mixture was extracted two times or more with ethyl acetate and water, and the organic layer was treated with sodium sulfate to remove extra water. After concentration under reduced pressure, column chromatography using 20% ethyl acetate/hexane gave 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzaldehyde with a yield of 96%.

reactant | 4-bromo-2-fluorobenzaldehyde | 2.46 mmol, 500 mg | BrC1=CC(=C(C=O)C=C1)F | C7H4BrFO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 3.69 mmol, 938 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
catalyst | Pd(dppf)2Cl2 | 0.15 mmol, 120 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.15 mmol, 78 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | 1,4-dioxane | 8 mL | O1CCOCC1 | C4H8O2
product | 2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzaldehyde | yield of 96% | FC1=C(C=O)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H16BFO3
